Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
Scheduled cycle 3 high-dose methotrexate
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Primary Oncologist: ___  
Primary Care Physician: ___ MD  
 
CC: Cycle 3 high dose methotrexate 
 
HPI:  
___ is a ___ ___ speaking man with 
coronary artery disease s/p BMS to large OM branch in ___ for 
inferior STEMI, HIV on ART (CD4 275, viral load undetectable in 
___, recently diagnosed high-grade CNS B cell lymphoma 
(brain stem) s/p brain biopsy, on high-dose MTX (started 
___ and dexamethasone, presenting for cycle 3 of high dose 
methotrexate.

The patient was admitted from ___ for cycle 2 of 
high dose methotrexate. He tolerated the treatment well. When 
the patient was admitted he was noted to be hyponatremic to 129; 
this corrected with control of serum glucose and administration 
of IVFs. He was also noted to have a serum lactate of 6, which 
trended down to 3. This was attributed potentially to his ART.

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis.

Today the patient feels well, his only symptom is occasional 
mild double vision, which is longstanding and has been improving 
with chemo. VS: temperature 97.7 F, blood pressure 114/70, pulse 
93, respiration 20 and oxygen saturation 96% in room air. He 
tolerated the past two cycles of methotrexate well with no 
symptoms.    

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX

PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
Vital Signs: Temperature 97.7 F, blood pressure 114/70, pulse 
93, respiration 20 and oxygen saturation 96% in room air
General: Alert, oriented, comfortable, Cushingoid appearance
HEENT: EOMI without nystagmus; pupils round, equal, nonreactive; 
Mucous membranes moist, oropharynx clear without 
erythema/exudate  
Neck: Supple, without lymphadenopathy  
Cardiovascular:  RRR, S1 S2, no MRG
Lungs: CTAB with some bibasilar crackles
Abdomen: +BS, soft, nontender, not distended
Extremities:   Warm, well-perfused, no edema, DP pulses 2+ b/l

Neurological Examination: Alert, oriented, good historian, 
occasional double vision but EOMI, ___ strength in UE and ___ 
bilaterally, sensation to light touch intact. 

DISCHARGE PHYSICAL EXAMINATION:  
Vital Signs: Temperature 98.1/98.1 F, blood pressure 110/70, 
pulse 73, respiration 18 and oxygen saturation 100% in room air
I/O 8hours: 1.6L/2.6L pH 8
General: Alert, oriented, comfortable, Cushingoid appearance
HEENT: EOMI without nystagmus; pupils round, equal, nonreactive; 
Mucous membranes moist, oropharynx clear without 
erythema/exudate  
Neck: Supple, without lymphadenopathy  
Cardiovascular:  RRR, S1 S2, no MRG
Lungs: CTAB with some bibasilar crackles
Abdomen: +BS, soft, nontender, not distended
Extremities: Warm, well-perfused, no edema, DP pulses 2+ b/l

Neurological Examination: Alert, oriented, good historian, 
occasional double vision but EOMI, ___ strength in UE and ___ 
bilaterally, sensation to light touch intact, Gait intact.
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 12:55PM BLOOD WBC-4.5 RBC-4.25* Hgb-13.2* Hct-39.8* 
MCV-94 MCH-31.1 MCHC-33.1 RDW-14.7 Plt ___
___ 12:55PM BLOOD Neuts-48* Bands-8* ___ Monos-4 
Eos-0 Baso-0 ___ Metas-8* Myelos-8* NRBC-1*

PERTINENT LABS:
---------------
___ 06:00PM BLOOD mthotrx-1.7
___ 06:00PM BLOOD mthotrx-0.12
___ 06:20AM BLOOD mthotrx-0.05
___ 07:00AM BLOOD %HbA1c-6.3* eAG-134*

DISCHARGE LABS:
---------------
___ 06:20AM BLOOD WBC-2.5* RBC-4.43* Hgb-13.4* Hct-42.0 
MCV-95 MCH-30.3 MCHC-31.9 RDW-15.0 Plt ___
___ 06:20AM BLOOD Neuts-64.3 ___ Monos-1.2* Eos-1.2 
Baso-0.6
___ 06:20AM BLOOD Glucose-204* UreaN-16 Creat-0.8 Na-134 
K-4.2 Cl-92* HCO3-36* AnGap-10
___ 06:20AM BLOOD ALT-78* AST-34 LD(LDH)-235 AlkPhos-63 
TotBili-0.6
___ 06:20AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.9
___ 09:23AM BLOOD Lactate-2.3*
 
Brief Hospital Course:
___ is a ___ man with HIV, recently 
diagnosed high-grade CNS B cell lymphoma (brain stem), on 
dexamethasone admitted for cycle 3 of high dose methotrexate.  

1. CNS Lymphoma:  He presented for his third induction dose of 
high-dose methtorexate. He started 24-hour urine collection for 
creatinine clearance the day before admission. He received his 
high-dose methotrexate. He tolerated it well. His urine was 
alkalinized. His IVF were increased to 200cc/hr. He was rescued 
with leucovorin. His dexamethasone was tapered to 1mg PO daily. 
He will return on ___ for the next round of high-dose 
methotrexate. His PPI and aspirin were held during his 
hospitalization and restarted on discharge.     

2. Anal HSV 2:  He was continued on home prophylactic acyclovir. 


3. HIV:  CD4 275, viral load undetectable in ___. 
Continued ART. ___ change per ___ PCP. Elevated lactate level 
noted last admission now improved to 2.3. 

4. Imbalance and Double Vision:  This may be secondary to 
lymphoma. Remainder of neuro examine intact. This admission, the 
patient had very stable gait and he notes his double vision to 
be improved from prior.

5. Coronary Artery Disease:  He is s/p 2 bare metal stents ___: 
Continued on lisinopril, metoprolol, pravastatin. However, 
lisinopril and metoprolol doses were cut in half as patient had 
mild symptomatic orthostasis. Aspirin was held while inpatient 
since it is an acid but restarted on discharge.

===========================
Transitional Issues
===========================
1. CNS Lymphoma:  Admitted for cycle 3 of HD MTX. Tolerated 
chemo well and MTX level on the morning of discharge was 0.05. 
Dexamethasone was tapered to 1mg daily. Will come back ___ 
for next high dose methotrexate infusion.

2. CAD s/p Stents ___:  Aspirin was held while inpatient due to 
methotrexate infusion. It will be restarted on discharge. We 
also decreased lisinopril from 5 to 2.5mg daily and toprol XL 
from 25 to 12.5mg daily because the patient had mild symptomatic 
orthostasis.

3. Elevated Lactate:  This was noted on prior admission, and now 
improved to 2.3. 

4. CODE: Full

5. EMERGENCY CONTACT: Family contact:  His wife is ___ 
___ at cell:
___ and his brother is ___ at cell: 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Lopinavir-Ritonavir 2 TAB PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pravastatin 40 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Dexamethasone 2 mg PO DAILY
 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Dexamethasone 1 mg PO DAILY 
RX *dexamethasone 1 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg half tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
CNS lymphoma
SECONDARY DIAGNOSES:
HIV
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___. You were admitted for the administratin of high 
dose methotrexate for your CNS lymphoma. You tolerated the 
medication well, without major adverse effects. We decreased 
your dose of dexamethasone to 1 mg daily.

We also decreased the dose of your heart medications (Metoprolol 
and Lisinopril) because you were feeling lightheaded and your 
blood pressure were low to normal. Please continue to discuss 
with your PCP if you should continue on this lower dose of heart 
medications.

Please take your medications as prescribed and follow up with 
the appointments listed below.
 
Followup Instructions:
___